US04123529
(a) 5-Phenyl-2-(2-hydroxypropyl)furan
2-Phenylfuran(14.4g,0.1 mole) was reacted in a similar manner to Example 40 but using propylene oxide (9ml,0.13 mole). The title compound was obtained as a straw coloured oil (16.0g) b.p. 145° C./0.05 mm with decomposition.

reactant | 2-Phenylfuran | 0.1 mole, 14.4g | C1(=CC=CC=C1)C=1OC=CC1 | C10H8O
reactant | propylene oxide | 0.13 mole, 9ml | C1C(C)O1 | C3H6O
product | 5-Phenyl-2-(2-hydroxypropyl)furan | C1(=CC=CC=C1)C1=CC=C(O1)CC(C)O | C13H14O2
